### PR TITLE
WIP: Show that `Data.Nat.Show.charsInBase` is injective

### PR DESCRIPTION
**Pull request by umazalakain**
This depends on #1257. The reason why I split `showInBase` into `charsInBase` and then `fromList` is because 1) `fromList` and `toList` are *not* shown to be inverses in *safe* Agda and 2) the proof that `fromList` is injective has not yet been released.

### CODE REVIEW

File: src/Data/List/Properties.agda [hunk 1]
```diff
@@ -106,6 +106,13 @@ map-compose : {g : B → C} {f : A → B} → map (g ∘ f) ≗ map g ∘ map f
 map-compose []       = refl
 map-compose (x ∷ xs) = cong (_ ∷_) (map-compose xs)
 
+map-injective : ∀ {f : A → B} (xs ys : List A) → (∀ {x y} → f x ≡ f y → x ≡ y) →
```
Comment (MatthewDaggitt) [inline src/Data/List/Properties.agda:109]: See the discussion in #1141 where we discuss using the `Injective` predicate, and putting this proof under `Data.List.Function.Map` and then re-exporting `map-injective` publicly in this file if its deemed useful. Given that PR has been sitting there for a while, I'm happy for you to go ahead and move it there in this one.

Comment (umazalakain) [reply src/Data/List/Properties.agda:109]: This `map-injective` proof uses `Data.List.Properties.∷-injective`, is this circular dependency avoidable in some way?

Comment (umazalakain) [reply src/Data/List/Properties.agda]: I've update the type for now :)

Comment (MatthewDaggitt) [reply src/Data/List/Properties.agda]: Hmm excellent point! Maybe it needs to be the other way around. Have `map-injective` in `Data.List.Properties` and then re-export it in `Data.List.Function.Map`...

Either that or have `Data.List.Properties.Core` which I'm personally against (though I know those sort of files have their supporters!)

Comment (MatthewDaggitt) [reply src/Data/List/Properties.agda]: Okay sounds good. I'm happy to leave it at that! I'll wait for Travis to go green and then merge it in 👍

**Comment by MatthewDaggitt** [comment]
Hmm actually any chance you can merge your branch with the latest version of `master` and push so that we cancheck we're not adding any unintended changes that crept in due to changes in #1257?

**Comment by umazalakain** [comment]
Done!

File: src/Data/List/Properties.agda (hunk 1 above)
Comment (umazalakain) [reply src/Data/List/Properties.agda]: I guess if this kind of properties keep pilling up it might be worth revisiting this.

File: CHANGELOG.md [hunk 2]
```diff
@@ -277,6 +277,7 @@ Other minor additions
 * Added new proofs to `Data.List.Properties`:
   ```agda
   reverse-injective : reverse xs ≡ reverse ys → xs ≡ ys
+  map-injective : ∀ {f : A → B} → Injective _≡_ _≡_ f → Injective _≡_ _≡_ (map f)
```
Comment (gallais) [inline CHANGELOG.md:280]: You can drop the `∀ {f : A → B} → ` from the CHANGELOG.
We usually only bother listing the interesting part of a type.

File: src/Data/Digit/Properties.agda [hunk 3]
```diff
@@ -0,0 +1,36 @@
...
+open import Relation.Binary.PropositionalEquality as P using (_≡_; refl)
+open import Function using (_∘_)
+
+module Data.Digit.Properties where
+
+digitCharsUnique : Unique digitChars
+digitCharsUnique = from-yes (allPairs? (λ x y → ¬? (x Charₚ.≟ y)) digitChars)
+
+module _ (base : ℕ) where
+  module _ {base≥2 : True (2 ≤? base)} where
```
Comment (gallais) [inline src/Data/Digit/Properties.agda:29]: Technically it is not necessary for the `base≥2` and `base≤16` proofs to
be equal on both sides for this to be true. I wonder whether it's worth
generalising it.

Or to prove that for `toDigits` and `showDigit` these arguments are irrelevant.

Comment (umazalakain) [reply src/Data/Digit/Properties.agda]: Good catch! I prefer the former, I find it more ergonomic to use. (Also, for the latter, could we not just use the fact that all lte proofs are equal?) I've updated the PR accordingly, making `inject≤-injective` accept two distinct lte proofs as well.

File: src/Data/Fin/Properties.agda [hunk 4]
```diff
@@ -464,10 +464,10 @@ inject≤-idempotent {_} {suc n} {suc k} zero    _   _   _ = refl
 inject≤-idempotent {_} {suc n} {suc k} (suc i) m≤n n≤k _ =
   cong suc (inject≤-idempotent i (ℕₚ.≤-pred m≤n) (ℕₚ.≤-pred n≤k) _)
 
-inject≤-injective : ∀ {n m} (n≤m : n ℕ.≤ m) x y → inject≤ x n≤m ≡ inject≤ y n≤m → x ≡ y
-inject≤-injective (s≤s p) zero zero eq = refl
-inject≤-injective (s≤s p) (suc x) (suc y) eq =
-  cong suc (inject≤-injective p x y (suc-injective eq))
+inject≤-injective : ∀ {n m} (n≤m n≤m′ : n ℕ.≤ m) x y → inject≤ x n≤m ≡ inject≤ y n≤m′ → x ≡ y
```
Comment (MatthewDaggitt) [inline src/Data/Fin/Properties.agda:467]: We should probably therefore update the CHANGELOG entry for this as well!

**Comment by umazalakain** [comment]
Should be ready to merge I think  ^^

**Comment by MatthewDaggitt** [comment]
Thanks for the PR!
